US04244953
Methyl 1,2-dihydro-5-(3-methoxyphenyl)-2-oxo-3-pyridinecarboxylate is treated with 1:1 hydrochloric acid-acetic acid to give 1,2-dihydro-5-(3-methyoxyphenyl)-2-oxo-3-pyridinecarboxylic acid. This product is boiled in quinoline to afford 5-(3-methoxyphenyl)-2(1H)-pyridinone as the product. Treatment of this product with phosphorus oxychloride provides 2-chloro-5-(3-methoxyphenyl)pyridine. The preceding product is treated with hydrazine to produce 2-hydrazino-5-(3-methoxyphenyl)pyridine. Treatment of this product with ethyl orthoacetate yields 6-(3-methoxyphenyl)-3-methyl-1,2,4-triazolo[4,3-a]pyridine. Hydrogenation of the above product gives the product of the Example.

reactant | Methyl 1,2-dihydro-5-(3-methoxyphenyl)-2-oxo-3-pyridinecarboxylate | COC=1C=C(C=CC1)C=1C=C(C(NC1)=O)C(=O)OC | C14H13NO4
reactant | hydrochloric acid acetic acid | Cl.C(C)(=O)O
product | 1,2-dihydro-5-(3-methyoxyphenyl)-2-oxo-3-pyridinecarboxylic acid | COC=1C=C(C=CC1)C=1C=C(C(NC1)=O)C(=O)O | C13H11NO4
